US09340544B2
N-(4-Cyano-phenyl)-formamide
Was prepared according to Example 2 from 4-cyanoaniline and formic acid.

reactant | 4-cyanoaniline | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | formic acid | C(=O)O | CH2O2
product | N-(4-Cyano-phenyl)-formamide | C(#N)C1=CC=C(C=C1)NC=O | C8H6N2O
